US07504420B2
To tert-butyl 3-hydroxy-1-phenyl-4-(3-((trimethylsilyl)ethynyl)benzylamino)butan-2-ylcarbamate in a mixture of THF (2 ml) and MeOH (2 ml), 1M K2CO3 (0.25 ml) was added and the reaction mixture was stirred at rt for 18 h. Then solvent was removed, crude residue was redissolved in ethyl acetate, washed with water, brine and dried. Column purification yielded tert-butyl 4-(3-ethynylbenzylamino)-3-hydroxy-1-phenylbutan-2-ylcarbamate in 85% yield.

reactant | tert-butyl 3-hydroxy-1-phenyl-4-(3-((trimethylsilyl)ethynyl)benzylamino)butan-2-ylcarbamate | OC(C(CC1=CC=CC=C1)NC(OC(C)(C)C)=O)CNCC1=CC(=CC=C1)C#C[Si](C)(C)C | C27H38N2O3Si
reactant | K2CO3 | 1M, 0.25 ml | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | MeOH | 2 ml | CO | CH4O
product | tert-butyl 4-(3-ethynylbenzylamino)-3-hydroxy-1-phenylbutan-2-ylcarbamate | 85% yield | C(#C)C=1C=C(CNCC(C(CC2=CC=CC=C2)NC(OC(C)(C)C)=O)O)C=CC1 | C24H30N2O3
